US04626542
4-(5H-Dibenzo[a,d]cyclohepten-5-yl)-1-cyclohexylpiperidine
0.50 gram (1.8 millimoles) of 4-(5H-dibenzo[a,d]cyclohepten-5-yl)piperidine, 6.68 gram (68.1 millimoles) of cyclohexanone, 0.49 gram of finely cut bits of aluminum foil and 15 milliliters of methanol were mixed together. To the mixture, 0.01 gram (0.04 millimole) of mercuric chloride was added and the resulting mixture stirred at ambient temperature for 24 hours at which time a TLC analysis indicated complete consumption of the starting material and formation of a new product. The reaction mixture was filtered successively through celite and silica gel to remove aluminum and mercury salts and the filtrate concentrated in vacuo to obtain a yellow oil which crystallized on trituration with acetonitrile. Recrystallization from acetonitrile produced purified 4-(5H-dibenzo[a,d]cyclohepten-5-yl)-1-cyclohexylpiperidine product as long, straw-colored needles of melting point 162°-164° C. in a yield of 490 milligrams (75 percent). Elemental analyses were as follows:

reactant | 4-(5H-dibenzo[a,d]cyclohepten-5-yl)piperidine | 1.8 millimoles, 0.50 gram | C1=CC=CC=2C(C3=C(C=CC21)C=CC=C3)C3CCNCC3 | C20H21N
reactant | cyclohexanone | 68.1 millimoles, 6.68 gram | C1(CCCCC1)=O | C6H10O
reactant | aluminum | [Al] | Al
solvent | methanol | 15 milliliters | CO | CH4O
product | 4-(5H-Dibenzo[a,d]cyclohepten-5-yl)-1-cyclohexylpiperidine | C1=CC=CC=2C(C3=C(C=CC21)C=CC=C3)C3CCN(CC3)C3CCCCC3 | C26H31N
